US08314087B2
N-(7-Methoxyquinolin-4-yl)-2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)acetamide
To a solution of 7-methoxyquinolin-4-amine (0.13 g, 0.77 mmol) and 2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)acetic acid (0.15 g, 0.64 mmol) in 5 mL of DMF at rt was added triethylamine (0.13 ml, 0.96 mmol) followed by HATU (0.44 g, 1.1 mmol) solid. The reaction was then heated up to 40° C. for 8 hours and was cooled to rt and diluted with 60 mL of EtOAc and 30 mL of satd. NaHCO3 (aq.) solution. The organic phase was separated, washed with 30 mL of brine and dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc to 10% MeOH/EtOAc) to give white (0.10 g, 40% yield). MS (ESI pos. ion) m/z (MH+): 392.1. Calc'd Exact Mass for C21H17N3O3S: 391.1.

reactant | 7-methoxyquinolin-4-amine | 0.77 mmol, 0.13 g | COC1=CC=C2C(=CC=NC2=C1)N | C10H10N2O
reactant | 2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)acetic acid | 0.64 mmol, 0.15 g | O=C1N(C=C(C=C1)C=1SC=CC1)CC(=O)O | C11H9NO3S
reactant | triethylamine | 0.96 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 1.1 mmol, 0.44 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | N-(7-Methoxyquinolin-4-yl)-2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)acetamide | 40% yield | COC1=CC=C2C(=CC=NC2=C1)NC(CN1C(C=CC(=C1)C=1SC=CC1)=O)=O | C21H17N3O3S
